US08580762B2
Step 3: Synthesis of methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)acetate
A solution 7-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (400 mg, 0.88 mmol) and methyl 2-(3-oxocyclobutyl)acetate (100 mg, 0.70 mmol) [prepared using the procedure found in US Patent Application Publication 2009/0118287] in 1,2-dichloroethane (12 mL) was treated dropwise with acetic acid (50 uL, 0.88 mmol). The solution was treated with sodium triacetoxyborohydride (260 mg, 1.2 mmol) in one portion and allowed to stir at room temperature until complete by HPLC. After 4 h, HPLC indicated the reaction was about 80% complete. An additional 20 mg of ketone was added and stirring was continued for 2.5 h. The reaction mixture was diluted with 30 mL CH2Cl2 and washed with 15 mL sat NaHCO3. The aqueous phase was washed with 15 mL CH2Cl2 and the combined organic phase was dried over Na2SO4. The organic phase was filtered and concentrated to yield a light yellow glass that was purified by flash chromatography (70 g silica gel; 2% 7N NH3 in CH3OH/CH2Cl2) to yield the title compound (270 mg, 66%) as a colorless glass: MS (ESI+) for C30H39N5O7 m/z 582.2 (M+H)+; HPLC purity >95% (ret. time, 2.88 min).

reactant | 7-((3aR,4R,6R,6aR)-6-(aminomethyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.88 mmol, 400 mg | NC[C@H]1O[C@H]([C@H]2[C@@H]1OC(O2)(C)C)N2C=CC1=C2N=CN=C1NCC1=C(C=C(C=C1)OC)OC | C23H29N5O5
reactant | methyl 2-(3-oxocyclobutyl)acetate | 0.70 mmol, 100 mg | O=C1CC(C1)CC(=O)OC | C7H10O3
reactant | acetic acid | 0.88 mmol, 50 uL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.2 mmol, 260 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 12 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(3-((((3aR,4R,6R,6aR)-6-(4-((2,4-dimethoxybenzyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)methyl)amino)cyclobutyl)acetate | 270 mg, 66% | COC1=C(CNC=2C3=C(N=CN2)N(C=C3)[C@@H]3O[C@@H]([C@@H]2[C@H]3OC(O2)(C)C)CNC2CC(C2)CC(=O)OC)C=CC(=C1)OC | C30H39N5O7
